US07718693B2
Ethyl 1-methyl-5-oxoprolinate (0.27 g, 1.58 mmol) was dissolved in ethanol (5 ml) and cooled to 0° C. in an ice bath. To this was added 2M aqueous sodium hydroxide solution (3 ml) and the mixture was stirred for ˜4 hours at 0° C. The ethanol was evaporated under vacuum and the aqueous residue was acidified with 2N aqueous hydrogen chloride to pH1. The volume of the aqueous phase was reduced to ˜3 ml under vacuum and then extracted with a 3:1 mixture of chloroform and isopropanol using a phase separator. The combined organic layers were concentrated to give 1-methyl-5-oxoproline which was used without further purification.

reactant | Ethyl 1-methyl-5-oxoprolinate | 1.58 mmol, 0.27 g | CN1[C@H](C(=O)OCC)CCC1=O | C8H13NO3
reactant | sodium hydroxide | 2M, 3 ml | [OH-].[Na+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1-methyl-5-oxoproline | CN1[C@H](C(=O)O)CCC1=O | C6H9NO3
